US05811432
To a stirred solution of potassium-t-butoxide (12.34 g, 110 mmol) in dry dimethylformamide (DMF) (30 mL) cooled at -10° C. under a nitrogen atmosphere was added dropwise a solution of (4-chlorophenoxy)acetonitrile (9.22 g, 55 mmol) and 2-isopropoxy-5-nitro pyridine (prepared according to the methodology of Friedman, et al., J. Am. Chem. Soc. 69, 1204 (1947)) (9.11 g, 50 mmol) in DMF (30 mL). The resulting purple solution was maintained at 0° to 10° C. for 1 hour. Aqueous hydrochloric acid was added (80 mL, 5% HCl) and the resulting mixture was allowed to warm to room temperature. The mixture was extracted twice with methylene chloride. The combined extracts were dried (MgSO4) and concentrated in vacuo to leave an oil which was passed through a thick pad of silica gel, eluting with 1:1 methylene chloride/hexane. The filtrate was evaporated under reduced pressure and the residual oil containing the desired (6-isopropoxy-3-nitro-2-pyridyl) acetonitrile) was dissolved in a 6:1 mixture of ethanol and acetic acid (10 mL) to which was added 5% palladium/carbon (0.8 g). The mixture was hydrogenated on a Parr shaker at 3 atmospheres pressure for 5 hours. The catalyst was removed by filtration of the mixture through diatomaceous earth (Celite (trademark)) and The filtrate was concentrated in vacuo. The residual oil was taken up in water and the pH was adjusted to 10 by addition of sodium carbonate. The mixture was extracted twice with methylene chloride and the combined extracts were dried (MgSO4) and concentrated. The residue was subjected to flash chromatography on silica gel eluting successively with 1:2 ether/hexane, 1:1 ether/hexane and ethyl acetate. Fractions containing the product eluted with ethyl acetate were combined and evaporated to provide (3-amino-6-isopropoxy-2-pyridyl)acetonitrile as an off-white solid (5.60 g, 59%); m.p. 83°-85° C.

reactant | potassium-t-butoxide | 110 mmol, 12.34 g | CC(C)([O-])C.[K+]
reactant | (4-chlorophenoxy)acetonitrile | 55 mmol, 9.22 g | ClC1=CC=C(OCC#N)C=C1 | C8H6ClNO
reactant | 2-isopropoxy-5-nitro pyridine | C(C)(C)OC1=NC=C(C=C1)[N+](=O)[O-] | C8H10N2O3
reactant | hydrochloric acid | Cl | ClH
reactant | HCl | 80 mL | Cl | ClH
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | DMF | 30 mL | CN(C=O)C | C3H7NO
product | (3-amino-6-isopropoxy-2-pyridyl)acetonitrile | 5.60 g, 59% | NC=1C(=NC(=CC1)OC(C)C)CC#N | C10H13N3O
